US07101886B2
N-(4-CYANO-2-FLUORO-PHENYL)-ACETAMIDE
N-(2-Fluoro-4-iodo-phenyl)-acetamide (63 g, 226 mmol) was dissolved in HPMA (100 mL). Copper(1) cyanide (20.6 g, 230 mmol) was added and the mixture heated to an external temperature of 153° C. for 5 h. The hot reaction mixture was poured into water (1 L) with stirring. A large amount of solid formed. The solid was filtered and washed with water (200 mL). The solid was extracted by heating in a flask with methylene chloride (500 mL) for 15 min. The solid was filtered off, washed with methylene chloride (3×100 mL). The combined organic extracts were washed with brine (200 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give a brown-orange solid. Ethanol (100 mL) was added and the mixture heated to reflux. The solid did not all dissolve. The cooled mixture was filtered to give a light brown solid. The filtrate was concentrated to ½ volume and cooled overnight to give a further crop of solid. The combined solids were washed with cold ethanol (30 mL) and dried under vacuum to give 30 g (168 mmol). Yield: 75%; mp 173° C.; 1H NMR (400 MHz, DMSO-d6) δ 10.3 (br s, 1H, NH), 8.3 (t, J=8.2 Hz, 1H), 7.9 (d, J=10.7 Hz, 1H), 7.67 (d, J=10.7 Hz, 1H), 2.16 (s, 3H, Me).

reactant | N-(2-Fluoro-4-iodo-phenyl)-acetamide | 226 mmol, 63 g | FC1=C(C=CC(=C1)I)NC(C)=O | C8H7FINO
reactant | Copper(1) cyanide | 230 mmol, 20.6 g | [Cu]C#N
reactant | water | 1 L | O | H2O
reactant | Ethanol | 100 mL | C(C)O | C2H6O
solvent | HPMA | 100 mL | CC(COC(=O)C(=C)C)O | C7H12O3
product | N-(4-CYANO-2-FLUORO-PHENYL)-ACETAMIDE | Yield: 75% | C(#N)C1=CC(=C(C=C1)NC(C)=O)F | C9H7FN2O
